US06515023B2
2,3-dichlorophenyloxirane
To a solution of 2,3-dichlorobenzaldehyde (0.314 mmol) in acetonitrile (1 ml) was added solid trimethylsulfonium iodide (0.314 mmol, 64 mg), potassium hydroxide (0.628 mmol, 35 mg), and water (0.079 mmol, 1.4 μl). The heterogeneous mixture were heated in a capped test tube at 60° C. for 3 h. The suspension was then diluted with ethyl acetate (1 ml) and washed with saturated sodium bicarbonate (1×1 ml) and water (3×0.5 ml). The tube was concentrated by vacuum centrifuge over 1 hour and the resulting 2,3-dichlorophenyloxirane used without further purification

reactant | 2,3-dichlorobenzaldehyde | 0.314 mmol | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | trimethylsulfonium iodide | 0.314 mmol, 64 mg | [I-].C[S+](C)C
reactant | potassium hydroxide | 0.628 mmol, 35 mg | [OH-].[K+]
reactant | water | 0.079 mmol, 1.4 μl | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2,3-dichlorophenyloxirane | ClC1=C(C=CC=C1Cl)C1OC1 | C8H6Cl2O
